US04476308
1.50 g of (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid are dissolved in 50 ml of chloroform and 10 ml of dimethylformamide. 1.08 g of N-hydroxysuccinimide are added thereto. Thereafter, 2.08 g of dicyclohexylcarbodiimide dissolved in 25 ml of chloroform are added. The mixture is stirred at room temperature for 4 hours and then the precipitated solid is filtered. The filtrate is concentrated to a volume of about 20 ml and then again filtered. The filtrate is evaporated and the residue is treated with 1.70 g of 94.7% cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine. The mixture is left to stand at room temperature overnight and the excess cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine is removed in vacuo. The residue is chromatographed on 60 g of aluminum oxide (activity grade I, basic). The fractions which are eluted with chloroform and alcohol are evaporated. The residue is stirred at room temperature in 35 ml of diethyl ether/ethyl acetate (2:1). There is obtained (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl] -2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide (melting point 116°-120°) which melts at 126°-128° after repeated chromatography on aluminum oxide (activity grade III, neutral) and recrystallization from ethyl acetate.

reactant | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid | 1.50 g | OC1C(N(CC1)CC(=O)O)=O | C6H9NO4
reactant | N-hydroxysuccinimide | 1.08 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 2.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl] -2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
